US07816371B2
d. 2-(4-Chloro-3-(trifluoromethyl)phenyl)-N-(1,2-dihydro-1-oxo-2-(((S)-pyrrolidin-2-yl)methyl)isoquinolin-5-yl)acetamide
Into a 20 ml reaction vessel was combined (S)-tert-butyl 2-((5-(2-(4-chloro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate (20.0 mg, 0.0000355 mol) and 1,4-dioxane (5 mL, 0.06 mol). Hydrogen chloride (0.016 g, 0.00044 mol) as a 2.0M solution in ether was added dropwise. The reaction was allowed to stir overnight. A white preciptate had formed and was filtered, washed with ether, and dried. The product was dissolved in diethylamine and DMSO (1 mL) and was purified by HPLC using a Phenomenex AXIA packed C18 column (100×21.2 10 micron) at pH 10. The combined pure fractions were reduced in vacuo to yield the title compound as a white solid. LC/MS M+H=464.2.

reactant | (S)-tert-butyl 2-((5-(2-(4-chloro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate | 0.0000355 mol, 20.0 mg | ClC1=C(C=C(C=C1)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)C[C@H]1N(CCC1)C(=O)OC(C)(C)C)C(F)(F)F | C28H29ClF3N3O4
reactant | 1,4-dioxane | 0.06 mol, 5 mL | O1CCOCC1 | C4H8O2
reactant | Hydrogen chloride | 0.00044 mol, 0.016 g | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-(4-Chloro-3-(trifluoromethyl)phenyl)-N-(1,2-dihydro-1-oxo-2-(((S)-pyrrolidin-2-yl)methyl)isoquinolin-5-yl)acetamide | ClC1=C(C=C(C=C1)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)C[C@H]1NCCC1)C(F)(F)F | C23H21ClF3N3O2
